US04843076
3.38 g of 2-acetonyl-(4R,6R)-4,6-dimethyl-1,3,2-dioxaphosphorinane-2-oxide and 2.4 g of m-nitrobenzaldehyde were dissolved in 15 ml of benzene, and 0.5 ml of piperidine was added thereto. The mixture was refluxed for 5 hours. The reaction solution was subjected to silica gel chromatography (developer solution: ethyl acetate/methanol=9/1 (v/v), Rf value: 0.4) to obtain 1.78 g of desired 2-(1-acetyl-2-(3-nitrophenyl)ethenyl)-(4R,6R)-4,6-dimethyl-1,3,2-dioxaphosphorinane-2-oxide as a yellow viscous liquid.

reactant | 2-acetonyl-(4R,6R)-4,6-dimethyl-1,3,2-dioxaphosphorinane-2-oxide | 3.38 g | C(C(=O)C)P1(O[C@@H](C[C@H](O1)C)C)=O | C8H15O4P
reactant | m-nitrobenzaldehyde | 2.4 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 2-(1-acetyl-2-(3-nitrophenyl)ethenyl)-(4R,6R)-4,6-dimethyl-1,3,2-dioxaphosphorinane-2-oxide | 1.78 g | C(C)(=O)C(=CC1=CC(=CC=C1)[N+](=O)[O-])P1(O[C@@H](C[C@H](O1)C)C)=O | C15H18NO6P
